US07851469B2
N-Cyclopropylmethyl-4-{4-[3-(4-fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-benzamide
As described for Example 10, 4-{4-[3-(4-fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-benzoic acid methyl ester (100 mg, 0.23 mmol), instead of 4-[4-(3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid methyl ester was converted, to the title compound (75 mg, 69%) which was obtained as a white solid. MS: m/e=471.0 [M+H]+.

reactant | 4-{4-[3-(4-fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-benzoic acid methyl ester | 0.23 mmol, 100 mg | COC(C1=CC=C(C=C1)N1C=NC(=C1)C=1C(=NOC1C(F)(F)F)C1=CC=C(C=C1)F)=O | C21H13F4N3O3
reactant | 4-[4-(3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid methyl ester | COC(C1=CC=C(C=C1)N1C=NC(=C1)C=1C(=NOC1C(F)(F)F)C1=CC=CC=C1)=O | C21H14F3N3O3
product | N-Cyclopropylmethyl-4-{4-[3-(4-fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-benzamide | 75 mg, 69% | C1(CC1)CNC(C1=CC=C(C=C1)N1C=NC(=C1)C=1C(=NOC1C(F)(F)F)C1=CC=C(C=C1)F)=O | C24H18F4N4O2
